US06103717
5 g (0.0193 mol) of 1-(tetrahydropyran-2-yloxy)-2-bromobenzene (Synthesis 1987, page 951) are dissolved in 20 ml of tetrahydrofuran, and the solution is cooled to -40° C. First, 10.8 g (0.0388 mol) of N-butyllithium (23% strength solution in hexane) and then a 50% strength solution of 7.2 g (0.0195 mol) of 1-(5,6-dihydro-1,4,2-dioxazin-3-yl)-1-(pyrrolidin-1-yl)-methanone in tetrahydrofuran are added dropwise at this temperature, and the mixture is stirred for 10 minutes at -40° C. A solution of 4.2 g (0.0785 mol) of ammonium chloride in 25 ml of water is then added dropwise, diethyl ether is added, the organic phase is separated off, and the aqueous phase is extracted repeatedly using diethyl ether. The combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. The residue crystallizes upon trituration with pentane. The crystals are filtered off and washed twice using 5 ml of diisopropyl ether. 2.4 g (35.8% of theory) of 3-[2-(tetrahydropyran-2-yloxy)-benzoyl]-5,6-dihydro-1,4,2-dioxazine (content according to HPLC analysis: 84%) are obtained.

reactant | 1-(tetrahydropyran-2-yloxy)-2-bromobenzene | 0.0193 mol, 5 g | O1C(CCCC1)OC1=C(C=CC=C1)Br | C11H13BrO2
reactant | N-butyllithium | 0.0388 mol, 10.8 g | [Li+].CCC[CH2-]
reactant | 1-(5,6-dihydro-1,4,2-dioxazin-3-yl)-1-(pyrrolidin-1-yl)-methanone | 0.0195 mol, 7.2 g | O1N=C(OCC1)C(=O)N1CCCC1 | C8H12N2O3
reactant | ammonium chloride | 0.0785 mol, 4.2 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 25 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[2-(tetrahydropyran-2-yloxy)-benzoyl]-5,6-dihydro-1,4,2-dioxazine | 2.4 g | O1C(CCCC1)OC1=C(C(=O)C2=NOCCO2)C=CC=C1 | C15H17NO5
